US04744918
0,75 g of optically active 1-butyryloxy-2-propanol [obtainable by esterification of (S)-1,2-propanediol], 1,7 g of p-(p-n-octylphenyl)-benzoic acid chloride, 20 ml of toluene and 2,1 ml of pyridine are boiled under reflux for 6 hours. The pyridinium chloride is filtered off hot with suction and the filtrate is worked up in the customary manner. Optically active 1-butyryloxy-2-[p-(p-n-octylphenyl)-benzoyloxy]-propane is obtained.

reactant | 1-butyryloxy-2-propanol | C(CCC)(=O)OCC(C)O | C7H14O3
reactant | p-(p-n-octylphenyl)-benzoic acid chloride | 1,7 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C21H25ClO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2,1 ml | N1=CC=CC=C1 | C5H5N
product | 1-butyryloxy-2-[p-(p-n-octylphenyl)-benzoyloxy]-propane | C(CCC)(=O)OCC(C)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCCC)=O | C28H38O4
